US09034880B2
Preparation of 2,8-dimethyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole 2-oxide
Dimebon (500 mg) was dissolved in 10 mL dichloromethane. To this was added a solution of mCPBA (65%, 536 mg) in 5 mL dichloromethane drop wise at 25 deg C. The reaction mixture was stirred at 25 deg C. for 24 h at which point it was found complete (by TLC and LCMS). The solvent was removed under reduced pressure (below 30 deg C.) and the residue was purified by column chromatography on neutral alumina eluting with methanol-dichloromethane gradient to obtain 220 mg of product as light brown oil. TLC Rf 0.5 in 5% MeOH-DCM. This compound also exhibited the following inhibition profile:

reactant | Dimebon | 500 mg | CC1=CC2=C(C=C1)N(C3=C2CN(CC3)C)CCC4=CN=C(C=C4)C | C21H25N3
reactant | mCPBA | 536 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2,8-dimethyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole 2-oxide | 220 mg | C[N+]1(CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC(=CC2)C)CC1)[O-] | C21H25N3O
